US06730678B2
4-[4-(2-pyrrolylcarbonyl)-1-piperazinyl]-3-trifluoromethylbenzoylguanidine hydrochloride monohydrate
109.4 g of 4-[4-(2-pyrrolylcarbonyl)-1-piperazinyl]-3-trifluoromethylbenzoylguanidine is suspended in 1.5 L of water and heated to about 50° C. 26.1 mL of concentrated aqueous hydrochloric acid is diluted with 300 mL of water and added dropwise to the preheated suspension within about 20 minutes. The mixture is stirred for about 15 minutes at constant temperature. Then the temperature is lowered to about 35° C. with stirring over a period of about 1.5 hours. It is then cooled to 5° C. to 10° C. and stirred for another hour at this temperature. The crystals obtained are separated off, washed with a little water, and dried in vacuo at about 50° C. Yield: 116.5 g; melting point: 180° C. ±5° C. (DSC at a heating rate of 10 K/min).

reactant | 4-[4-(2-pyrrolylcarbonyl)-1-piperazinyl]-3-trifluoromethylbenzoylguanidine | 109.4 g | N1C(=CC=C1)C(=O)N1CCN(CC1)C1=C(C=C(C(=O)NC(=N)N)C=C1)C(F)(F)F | C18H19F3N6O2
reactant | hydrochloric acid | 26.1 mL | Cl | ClH
solvent | water | 1.5 L | O | H2O
solvent | water | 300 mL | O | H2O
product | 4-[4-(2-pyrrolylcarbonyl)-1-piperazinyl]-3-trifluoromethylbenzoylguanidine hydrochloride monohydrate | O.Cl.N1C(=CC=C1)C(=O)N1CCN(CC1)C1=C(C=C(C(=O)NC(=N)N)C=C1)C(F)(F)F | InChI=1S/C18H19F3N6O2.ClH.H2O/c19-18(20,21)12-10-11(15(28)25-17(22)23)3-4-14(12)26-6-8-27(9-7-26)16(29)13-2-1-5-24-13;;/h1-5,10,24H,6-9H2,(H4,22,23,25,28);1H;1H2
